Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillin G
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Coronary Angiography with PCI

 
History of Present Illness:
___ man with PMH of HTN, ETOH use in remission and tobacco use 
presented with 24 hours of substernal chest pain. He first 
noticed the pain yesterday morning (___) when he woke up. The 
pain continued intermittently throughout the day, despite his 
efforts to rest. He attributed these symptoms to congestion from 
smoking. This morning, the pain was worse and was radiating to 
the jaw. He also developed diaphoresis and some nausea and went 
to the ED. He had never had pain like this before and did not 
take any daily medication. Denies abdominal pain, vomiting, 
diarrhea, fevers, chills, shortness of breath. He has been 
coughing. Patient's history and EKG concerning for acute STEMI. 
Code STEMI was called immediately from triage. Cardiology 
arrived promptly at the bedside. 

In the ED,  
- Initial vitals were:  Temp 97, HR 95, BP 189/141, RR 18, 95% 
RA
- Exam notable for: diaphoresis  
- Labs notable for:  Troponin 0.09
- Studies notable for: 
  EKG: NSR, rate 86, left axis deviation, ST elevations in leads 
V2 through V6, < 1mm ST elevations in leads I and aVL 
- Patient was given:  324 aspirin, 180 ticagrelor, heparin 
bolus, SL nitro with minimal relief, and nitro drip.

After initial evaluation in the ED, the patient was taken 
urgently to cath lab for revascularization via right radial 
access. He had total occlusion of the mid-LAD. He underwent 
stent placement without complications.

On arrival to the CCU, the patient appears anxious. He is having 
chest pain ___. He is completely surprised by this event. He 
says that he has never had chest pain like this before, and 
thought his symptoms were related to smoking. He denies 
exertional chest pain. He did note that over the past six 
months, he has had dyspnea on exertion and occasional orthopnea 
that improves with sitting up. He can climb about 20 steps 
before he
has to stop and catch his breath. He has also noticed weight 
gain
during this time as well: he usually weights about 180 lbs, and
recently his weight had gone up to 210. He denies any swelling 
in
his legs or abdomen. He has a history of heart disease in his
family: father had MI in his ___ and CABG. 
He has no known medical problems otherwise. He recently saw a 
PCP
for smoking cessation. He also had an outpatient sleep study 
done
with results pending. He takes no medications at home.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative.  
 
Past Medical History:
Cardiac History:
- None

Other PMH:
- Hyperlipidema
- Smoking
- Daily alcohol use since his ___, two pints of alcohol daily 
most recently in ___ but has not drank since then per 
report
- Hypertension
- OSA: sleep study pending 
- Alcoholic hepatitis 
- C diff 
 
Social History:
___
Family History:
Father- CABG, MI in his ___. DM and EtOH use disorder. 
Mother- died of aneurysm rupture
 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAMINATION
==============================
VS: Temperature 97.5, HR 75, BP 177/124, RR 19, SPO2 98% RA
GENERAL: Overweight, middle-aged gentleman. Appears slightly 
anxious but otherwise in NAD.
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple, JVP flat.
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or 
gallops.  
LUNGS: Breathing comfortably on room air. Bilateral low field 
wheezing
ABDOMEN: Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: Alert and oriented x3; cranial nerves grossly intact; 
moves all extremities spontaneously 

==============================
DISCHARGE PHYSICAL EXAMINATION
==============================
PHYSICAL EXAMINATION: 
VS: Reviewed in Metavision
GENERAL: Overweight, middle-aged gentleman in NAD  
NECK: JVP just above the clavicle at 45 degrees 
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No crackles audible  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.    
PULSES: Distal pulses palpable and symmetric.  
NEURO: Alert and conversing appropriately  

 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 11:40AM BLOOD WBC-11.3* RBC-5.39 Hgb-16.8 Hct-49.3 
MCV-92 MCH-31.2 MCHC-34.1 RDW-12.9 RDWSD-43.2 Plt ___
___ 11:40AM BLOOD Neuts-77.1* Lymphs-17.3* Monos-4.6* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.70* AbsLymp-1.95 
AbsMono-0.52 AbsEos-0.03* AbsBaso-0.03
___ 11:40AM BLOOD ___ PTT-29.1 ___
___ 11:40AM BLOOD Glucose-148* UreaN-9 Creat-0.7 Na-142 
K-4.2 Cl-103 HCO3-23 AnGap-16
___ 11:40AM BLOOD Calcium-9.1 Phos-2.9 Mg-1.9
___ 08:00PM BLOOD Triglyc-103 HDL-51 CHOL/HD-3.7 
LDLcalc-116
___ 12:20PM BLOOD Lactate-1.9

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 11:40AM BLOOD cTropnT-0.09*
___ 08:00PM BLOOD cTropnT-6.34*
___ 05:30AM BLOOD cTropnT-3.48*

===========================
REPORTS AND IMAGING STUDIES
===========================
___ TRANSTHORACIC ECHOCARDIOGRAM
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
moderate regional left ventricular systolic dysfunction with 
severe hypokinesis to akinesis of the mid to distal anterior, 
anteroseptal, septal walls and distal LV/apex (see schematic) 
and preserved/normal contractility of the remaining segments. No 
thrombus or mass is seen in the left ventricle. Quantitative 
biplane left ventricular ejection fraction is 45 %. Left 
ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no resting left ventricular outflow tract gradient. 
Tissue Doppler suggests an increased left ventricular filling 
pressure (PCWP greater than 18mmHg). There is Grade II diastolic 
dysfunction. Mildly dilated right ventricular cavity with focal 
hypokinesis of the apical free wall. The aortic sinus is mildly 
dilated with normal ascending aorta diameter for gender. The 
aortic valve leaflets (?#) are mildly thickened. There is no 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral regurgitation. The 
tricuspid valve leaflets are mildly thickened. There is 
physiologic tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
moderate regional systolic dysfunction most consistent with LAD 
distribution coronary artery disease, with mildly depressed 
ejection fraction. Elevated PCWP and diastolic dysfunction 
suggested. Right ventricular apical hypokinesis. Mild pulmonary 
hypertension.

Compared with the prior TTE (images reviewed) of ___, LV 
regional wall motion abnormalities are present and systolic 
function is lower.

___ CORONARY ANGIOGRAPHY AND PCI
The coronary circulation is right dominant.

LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.

LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 50% stenosis in the 
proximal segment. There is a 100% stenosis in the proximal 
segment. There is a
40% stenosis in the mid segment. The Septal Perforator, arising 
from the proximal segment, is a small caliber vessel. The 
Diagonal, arising from the proximal segment, is a medium caliber 
vessel.

Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a medium caliber 
vessel.

RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. The Acute Marginal, arising from the 
proximal segment, is a small caliber vessel. The Right Posterior 
Descending Artery, arising from the distal segment, is a medium 
caliber vessel. The Right Posterolateral Artery, arising from 
the distal segment, is a medium caliber vessel.

 The LAD had mid total occlusion, crossed and dilated then 
stented with 0% residual. proximal 50% left alone. Diag was 
compromised (70% stenosis) by stent, and was dilated with 2.0 mm 
balloon with 40% residual

TTE ___
-----------------
CONCLUSION:
The left ventricle has a normal cavity size. There is mild 
regional left ventricular systolic dysfunction with near 
akinesis of the distal inferior and septal walls and mild 
dyskinesis of the apex (see schematic) and preserved/ normal 
contractility of the remaining segments. The visually estimated 
left ventricular ejection fraction is 50%. Normal right 
ventricular cavity size with focal hypokinesis of the apical 
free wall.
IMPRESSION: Normal left ventricular cavity size with regional 
biventricular systolic dysfunction most c/w CAD (distal LAD 
distribution).
Compared with the prior TTE (images reviewed) of ___, the 
findings are similar.

============
MICROBIOLOGY
============
None

 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
___ man with PMH of HTN, ETOH use in remission and tobacco use 
presented with 24 hours of substernal chest pain, found to have 
anterolateral STEMI, now status post PCI to mid LAD.

====================
ACUTE MEDICAL ISSUES
====================
#ST-Elevation Myocardial Infarction
No history of chest pain. Risk factors include family history, 
active smoking, obesity. Initial EKG with ST elevations in I, 
AVL, and V2-5 consistent with anterolateral infarct in LAD 
territory. Troponin peaked to 6.34. He underwent placement of 
Promus ELITE stent to the LAD on ___. He will need repeat 
lipid panel in 3 months to ensure LDL <70. Would also recommend 
HBA1C and cardiac rehab in 6 weeks time.

Lipids notable for Chlesterol 180, HDL 47, Calculated LDL 107. 
ACEi: Lisinopril 10 mg 
Neurohormonal Beta-Blockade: Metoprolol succinate 25 mg daily
Statin: Atorvastatin 80 mg daily
Antiplatelet agents: Clopidogrel 75 mg daily, Aspirin 81 mg 
daily

#Acute heart failure with reduced ejection fraction
#Apical Akinesis 
His TTE was notable for LVEF 45% with apical akinesis and he was 
therefore started on warfarin with goal INR ___ for LV thrombus 
prophylaxis. He was continued on aspirin 81mg daily. Although he 
was initially treated with ticagrelor 90mg BID, this was 
converted to Plavix 75mg daily (after 150mg load) after his 
apical akinesis was discovered. A contrast TTE found no LV 
thrombus. He did not require diuretic therapy while 
hospitalized. 

======================
CHRONIC MEDICAL ISSUES
======================
# Hypertension
Per patient, he was formerly taking HCTZ but has not taken it 
for some time. Arrived to CCU on nitro gtt, though continued to 
by hypertensive to 170/120s, necessitating addition of 
captopril. His blood pressure was subsequently better 
controlled. His discharge regimen was Lisinopril 10 mg daily and 
metoprolol succinate 25 mg daily.

# Tobacco use
Smokes about 1 pack/day. Working with PCP on smoking cessation 
prior to admission. He was treated with a nicotine patch, 14 
mg/day (lower dose due to CV disease).

# History of alcohol use
Last used in ___, was drinking 2 pints liquor/daily. Has 
previously been admitted for withdrawal requiring phenobarbital 
but no seizures of DT. Denies recent use. Did not have any 
symptoms of withdrawal on this admission.

# Leukocytosis
Suspect likely inflammatory reaction secondary to STEMI. No 
localizing signs of infection and no fevers.

# Transaminitis
AST elevation likely secondary to infarct and cell necrosis, 
although with previous EtOH misuse history could represent 
underlying baseline liver dysfunction. Admission ALT/AST were 
69/313, trended down to 46/136.

===================
TRANSITIONAL ISSUES
===================
[ ] Patient is amenable to smoking cessation and should be 
provided with further resources for this - discharged with 14 
mcg patches 
[ ] repeat ECHO to see if apical akinesis has recovered, 
discharged on warfarin (2.5 mg daily) not therapeutic at 
discharge, but no indication for bridging 
[ ] Follow with ___ clinic 
[ ] LFTs found to be abnormally elevated, which may warrant 
periodic monitoring 
[ ] Arrange Sleep clinic ___ to evaluate results of recent sleep 
study, likely requires PAP (was intermittently hypoxic w/ normal 
Xray and exam)
[ ] F/U with PCP for smoking cessation and medication management 
(will need INR monitoring)as well as repeat lipid panel and A1C 
in ___
[ ] F/U with Cardiology for post-STEMI care
[ ] Cardiac rehab in 6 weeks, no acute ___ needs

Discharge weight: 99.1 kg
Discharge INR: 1.1
HCP: ___  sister ___
Code status: Full

 
Medications on Admission:
No pre-admission medications
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  Lisinopril 10 mg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Nicotine Patch 14 mg/day TD DAILY  
7.  Warfarin 2.5 mg PO daily, dose adjustments for ___ 
Anticoagulation Management services   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
ST-Elevation Myocardial Infarction

===================
SECONDARY DIAGNOSES
===================
Acute heart failure with reduced ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were having chest pain and we found that you were having a 
heart attack. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We put a stent in the blockage in your heart to stop the heart 
attack
- We treated you with medications for your heart attack and 
medications to keep your stent open. 
- We found that part of your heart was not moving normally, so 
we started you on blood thinners to prevent the formation of a 
clot. 

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- Carefully review the attached medication list as we may have 
made changes to your medications. 

Sincerely, 
Your ___ Care Team

 
Followup Instructions:
___